US05480857
A mixture of 3-cyclopropyl-1-(3,5-dichloropyridin-2-yl)propan-1,3-dione (1.3 g) and N,N-dimethylformamide dimethyl acetal (1.1 ml) in 1,4-dioxane was stirred at room temperature for 4 days and the solvent was evaporated to yield 3-cyclopropyl-1-(3,5-dichloropyridin-2-yl)-2-dimethylaminomethylenepropan-1,3-dione (1.73 g).

reactant | 3-cyclopropyl-1-(3,5-dichloropyridin-2-yl)propan-1,3-dione | 1.3 g | C1(CC1)C(CC(=O)C1=NC=C(C=C1Cl)Cl)=O | C11H9Cl2NO2
reactant | N,N-dimethylformamide dimethyl acetal | 1.1 ml | COC(N(C)C)OC | C5H13NO2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 3-cyclopropyl-1-(3,5-dichloropyridin-2-yl)-2-dimethylaminomethylenepropan-1,3-dione | 1.73 g | C1(CC1)C(C(C(=O)C1=NC=C(C=C1Cl)Cl)=CN(C)C)=O | C14H14Cl2N2O2
